datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7]([H:17])[H:18])[H:16])[H:10])([H:8])[H:9],126.775
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17](=[C:18][C:19]([H:22])([H:23])[H:24])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:15])[H:16])[H:14])[C:18](=[C:17]([H:20])[H:21])[C:19]([H:22])([H:23])[H:24])[H:10])[H:9])([H:7])[H:8],4.10032
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9](=[O:10])[H:11]>>[C-:9]#[O+:10].[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:11])([H:4])[H:5],0.0
[C:1]1([H:3])=[C:4]([H:5])[C:6]2([H:8])[C:9]([H:10])=[C:11]([H:12])[C:13]([H:14])=[C:15]2[C:17]([H:18])=[C:19]1[H:21]>>[C:1]1([H:3])=[C:4]([H:5])[c:6]2[c:9]([H:10])[c:11]([H:12])[c:13]([H:14])[c:17]([H:18])[c:15]2[C:19]1([H:8])[H:21],28.4512
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]1([H:18])([H:19])[C:10]([H:20])([H:21])[C:11]([H:22])([H:23])[C:12]2([H:24])[C:13]([H:25])([H:26])[C:14]([H:27])([H:28])[C:15]([H:29])([H:30])[C:16]2([H:31])[C:17]1([H:32])[H:33]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:27])[H:4].[C:9]1([H:18])([H:19])[C:10]([H:20])([H:21])[C:11]([H:22])([H:23])[C:12]2([H:24])[C:13]([H:25])([H:26])[C:14]([H:28])[C:15]([H:29])([H:30])[C:16]2([H:31])[C:17]1([H:32])[H:33],59.4128
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[S:12]([H:13])[H:14]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[S:12][H:14])([H:4])([H:5])[H:13],175.728
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][C:11](=[C:12]([H:14])[H:15])[H:13],43.5136
[C:0]([H:1])[H:2].[C:3]([C:4]([H:7])([H:8])[H:9])([H:5])[H:6]>>[C:0]([H:1])([H:2])[H:7].[C:3](=[C:4]([H:8])[H:9])([H:5])[H:6],0.0
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11](=[C:12][C:13]([H:16])([H:17])[H:18])([H:14])[H:15]>>[C:0](=[C:1]([C:2](=[C:3][C:4]([H:8])([H:9])[H:10])[C:12](=[C:11]([H:14])[H:15])[C:13]([H:16])([H:17])[H:18])[H:7])([H:5])[H:6],21.0037
[C:0]1([H:9])[C:1]([H:10])=[C:2]([H:11])[c:3]2[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]21>>[C:0]12([H:9])[C:1]([H:10])[C:2]1([H:11])[c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]12,0.0
[C:0]([N:1]([H:5])[H:6])([H:2])([H:3])[H:4].[H:7]>>[C:0]([N:1][H:6])([H:2])([H:3])[H:4].[H:5][H:7],40.6266
[C:0]([C:1]1=[C:2]([H:10])[C:3]([H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]1([H:15])[H:16])([H:7])([H:8])[H:9].[C:17]([C:18](=[C:19]([C:20]([H:26])([H:27])[H:28])[H:25])[H:24])([H:21])([H:22])[H:23]>>[C:0]([C:1]12[C:2]([H:10])=[C:3]([H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6]1([H:15])[H:16])[C:19]([C:20]([H:26])([H:27])[H:28])([H:25])[C:18]2([C:17]([H:21])([H:22])[H:23])[H:24])([H:7])([H:8])[H:9],103.554
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6]([C:7]([H:16])([H:17])[H:18])=[C:8]([C:9]([H:20])([H:21])[H:22])[H:19])([H:14])[H:15])[H:13])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]([C:7]([H:16])([H:17])[H:18])[C:8]1([C:9]([H:20])([H:21])[H:22])[H:19])[H:10],114.349
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[S:7]([C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])([H:16])[H:17])[H:15]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:16])([H:4])[H:5].[S:7]([C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])[H:17])[H:15],60.668
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:16][O:17]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][O:16][O:17],39.003248
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](#[C:12][C:13]([H:15])[H:16])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:13]([C:12]#[C:11][H:14])([H:15])[H:16])[C:4]([H:8])([H:9])[H:10])[H:5],25.104
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[H:18])[H:8],7.07096
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([C:22]([c:23]1[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]1[H:37])[H:32])([H:29])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[C:22]([C:21]([H:29])([H:30])[H:31])([c:23]1[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]1[H:37])[H:32])[H:11])([H:9])[H:10],29.1625
